* source PROIECT_CAD
.EXTERNAL OUTPUT out
.EXTERNAL OUTPUT out1
.EXTERNAL OUTPUT ref
R_R1         N00083 +VCC  100k TC=0,0 
R_R3         0 N00083  {senzor} TC=0,0 
R_R2         0 N00083  100k TC=0,0 
V_V1         +VCC 0 +12V
V_V2         -VCC 0 -12V
R_R6         OUT N11463  1k TC=0,0 
R_R4         REF N11289  1k TC=0,0 
X_U4         N11463 N11289 +VCC -VCC OUT1 LM741
R_R5         N11289 OUT1  11.5k TC=0,0 
R_R7         0 N11463  11.5k TC=0,0 
R_Ra         N11846 +VCC  5.6k TC=0,0 
R_Rb         0 N11846  1k TC=0,0 
X_U7         N00083 OUT +VCC -VCC OUT LM741
X_U8         N11846 REF +VCC -VCC REF LM741
X_U9         OUT1 N13042 +VCC 0 N13228 LM741
R_R9         0 N13042  1.2k TC=0,0 
R_R8         N13042 +VCC  4.7k TC=0,0 
R_R_blue         N13228 N13284  400 TC=0,0 
D_D1          N13284 0 albastru 
R_R10         N13754 +VCC  37.4k TC=0,0 
R_R11         0 N13754  10k TC=0,0 
X_U10         OUT1 N13754 +VCC 0 N13710 LM741
D_D2          N13714 0 verde 
R_R_green         N13710 N13714  400 TC=0,0 
X_U11         OUT1 N14125 +VCC 0 N14081 LM741
R_R_red         N14081 N14085  500 TC=0,0 
R_R13         0 N14125  10k TC=0,0 
D_D3          N14085 0 rosu 
R_R12         N14125 +VCC  10.5k TC=0,0 
D_D4          N14462 0 galben 
X_U12         OUT1 N14502 +VCC 0 N14458 LM741
R_R_yellow         N14458 N14462  480 TC=0,0 
R_R15         0 N14502  3.9k TC=0,0 
R_R14         N14502 +VCC  2k TC=0,0 
R_R_orange         N14841 N14845  300 TC=0,0 
D_D5          N14845 0 portocaliu 
R_R17         0 N14885  42.2k TC=0,0 
X_U13         OUT1 N14885 +VCC 0 N14841 LM741
R_R16         N14885 +VCC  10.5k TC=0,0 
.PARAM  senzor=25k
